US05028602
Zinc powder (0.19 g) was added to a stirred solution of 1,3-dibromo-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine (0.58 g) in acetic acid (10 ml) and the mixture heated under reflux for 5 hours under nitrogen. The mixture was evaporated, water (20 ml), 0.880 ammonia solution (5 ml) added, and extracted with dichloromethane (2×20 ml). The extracts were dried, filtered, evaporated and the residue chromatographed (silica, 1% methanol in dichloromethane) to give 1-bromo-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno [3,4-d]azepine as an oil. Later column fractions contained 6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine.

reactant | 1,3-dibromo-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine | 0.58 g | BrC=1SC(=C2C1CCN(CC2C2=CC=CC=C2)C)Br | C15H15Br2NS
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.19 g | [Zn] | Zn
product | 1-bromo-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno [3,4-d]azepine | BrC=1SC=C2C1CCN(CC2C2=CC=CC=C2)C | C15H16BrNS
